US05922886
1.3. 1-(6-Chloro-2-pyridyl)pyrazolidin-3-one
A solution of 20.1 g (140 mmol) of 6-chloro-2-pyridylhydrazine (synthesis: Chem. Ber. 103. (1970) 1960) are added dropwise at 15°-20° C. to a mixture of 12.4 g (182 mmol) of sodium ethoxide, 100 ml of ethanol and 100 ml of toluene. After stirring for 2 hours at 25° C., the reaction mixture is evaporated, the residue is taken up in water and extracted with MTBE. The aqueous phase is adjusted to a pH of 6.5 and cooled to 5° C. The precipitate formed is filtered off and dried under reduced pressure at 40° C.

reactant | 6-chloro-2-pyridylhydrazine | 140 mmol, 20.1 g | ClC1=CC=CC(=N1)NN | C5H6ClN3
reactant | sodium ethoxide | 182 mmol, 12.4 g | [O-]CC.[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(6-Chloro-2-pyridyl)pyrazolidin-3-one | ClC1=CC=CC(=N1)N1NC(CC1)=O | C8H8ClN3O
